US06833480B2
A solution of 2,4-dichlorophenylacetylene (0.02 mol), 2-chloro-4-methylbenzyl mercaptan (0.02 mol) and metallic sodium (0.02 g atom) is subjected to the General Procedure to form (Z)-2,4-dichlorostyryl-2-chloro-4-methylbenzylsulfide. The title compound is obtained following oxidation of the sulfide, according to the General Procedure.

reactant | 2,4-dichlorophenylacetylene | 0.02 mol | ClC1=C(C=CC(=C1)Cl)C#C | C8H4Cl2
reactant | 2-chloro-4-methylbenzyl mercaptan | 0.02 mol | ClC1=C(CS)C=CC(=C1)C | C8H9ClS
reactant | sodium | 0.02 g | [Na] | Na
product | (Z)-2,4-dichlorostyryl-2-chloro-4-methylbenzylsulfide | ClC1=C(\C=C/C(C2=C(C=C(C=C2)C)Cl)SC(C2=C(C=C(C=C2)C)Cl)\C=C/C2=C(C=C(C=C2)Cl)Cl)C=CC(=C1)Cl | C32H24Cl6S
